US07399759B2
Ethyl 6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridinecarboxylate
A mixture of methyl thiosalicylate (2.0 g, 11.9 mmol), ethyl 6-cyano-2-pyridinecarboxylate (2.1 g, 11.9 mmol), triethylamine (3.0 ml, 21.5 mmol) and toluene (6 ml) was refluxed for 12 hrs as described in Example 1. The precipitated crystals were collected by filtration and recrystallized from diisopropylether-tetrahydrofuran to give the titled compound (3.0 g, 80%).

reactant | methyl thiosalicylate | 11.9 mmol, 2.0 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | ethyl 6-cyano-2-pyridinecarboxylate | 11.9 mmol, 2.1 g | C(#N)C1=CC=CC(=N1)C(=O)OCC | C9H8N2O2
reactant | triethylamine | 21.5 mmol, 3.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridinecarboxylate | 3.0 g, 80% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)C(=O)OCC | C16H12N2O3S
